US07767854B2
To a mixture of potassium t-butoxide (379 mg) and anhydrous N,N-dimethylformamide (20 ml) was added isobutyltriphenylphosphonium bromide (1.35 g) at room temperature. The mixture was stirred for 10 minutes, and then a solution of t-butyl trans-4-formylcyclohexyl-carbamate (700 mg) in N,N-dimethylformamide (3 ml) was added to the mixture. After the reaction mixture was stirred overnight, saturated aqueous ammonium chloride was added thereto. The mixture was extracted with toluene, and the organic layer was washed with brine, dried over sodium sulfate, and then the solvent was removed in vacuo. After diethyl ether was added to the residue, the precipitate was filtered off and then the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel chromatography (eluent: gradient from 100% hexane/0% ethyl acetate to 0% hexane/100% ethyl acetate) to give 380 mg of t-butyl trans-{4-[(Z)-3-methyl-1-butenyl]cyclohexyl}-carbamate.

reactant | potassium t-butoxide | 379 mg | CC(C)([O-])C.[K+]
reactant | isobutyltriphenylphosphonium bromide | 1.35 g | [Br-].C(C(C)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-butyl trans-4-formylcyclohexyl-carbamate | 700 mg | C(=O)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C12H21NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | t-butyl trans-{4-[(Z)-3-methyl-1-butenyl]cyclohexyl}-carbamate | 380 mg | CC(\C=C/[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C | C16H29NO2
